US07144908B2
ii) 3-(3-Iodobenzyl)imidazolidine-2,4-dione
A solution of ethyl N-{[(3-iodobenzyl)amino]carbonyl}glycinate (7.6 g) in MeOH (40 ml) was treated with aqueous 2M NaOH (21.2 ml) and stirred under nitrogen at 20° C. The mixture crushed out instantly and was quenched by adding aqueous 2M HCl (22 ml). The residue was filtered to give the title compound (4.4 g) LCMS=2.73 min.

reactant | ethyl N-{[(3-iodobenzyl)amino]carbonyl}glycinate | 7.6 g | IC=1C=C(CNC(=O)NCC(=O)OCC)C=CC1 | C12H15IN2O3
reactant | NaOH | 2M, 21.2 ml | [OH-].[Na+]
solvent | MeOH | 40 ml | CO | CH4O
product | 3-(3-Iodobenzyl)imidazolidine-2,4-dione | 4.4 g | IC=1C=C(CN2C(NCC2=O)=O)C=CC1 | C10H9IN2O2
